US03957790
N-3,3-Diphenylpropylpiperazine in the amount of 1.4 g (0.005 mole), 1.1 g (0.005 mole) of 2,3,4-trimethoxybenzyl chloride, and 0.93 g (0.005 mole) of tributylamine were dissolved in 10 ml of ethylene glycol diethyl ether, and the resulting solution was heated at the refluxing temperature for 2.5 hours. The reaction liquid was left to cool, and filtered, and concentration of the filtrate under reduced pressure produced 2.1 g of oily 1-(3,3-diphenylpropyl)-4-(2,3,4-trimethoxybenzyl)piperazine (91.2% yield).

reactant | N-3,3-Diphenylpropylpiperazine | C1(=CC=CC=C1)C(CCN1CCNCC1)C1=CC=CC=C1 | C19H24N2
reactant | 2,3,4-trimethoxybenzyl chloride | 0.005 mole, 1.1 g | COC1=C(CCl)C=CC(=C1OC)OC | C10H13ClO3
reactant | tributylamine | 0.005 mole, 0.93 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | ethylene glycol diethyl ether | 10 ml | C(C)OCCOCC | C6H14O2
product | 1-(3,3-diphenylpropyl)-4-(2,3,4-trimethoxybenzyl)piperazine | 2.1 g, 91.2% yield | C1(=CC=CC=C1)C(CCN1CCN(CC1)CC1=C(C(=C(C=C1)OC)OC)OC)C1=CC=CC=C1 | C29H36N2O3
